US07271197B2
i) Methyl 3′-{[2-(4-{2-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6yl)-2-oxo-1,3-oxazolidin-3-yl]ethyl}phenoxy)ethoxy]methyl}-1,1′-biphenyl-3-carboxylate
A mixture of (5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-3-[2-(4-{2-[(3-iodobenzyl)oxy]ethoxy}phenyl)ethyl]-1,3-oxazolidin-2-one {Example 6 i)} (150 mg), 3-(methoxycarbonyl)phenylboronic acid (47 mg), tetrakis(triphenylphosphine)palladium (0) (6 mg) and 2N sodium carbonate (7 mL) in dimethoxyethane (10 mL) was heated at 85° C. for 1 h. The solution was then diluted in EtOAc, washed with water, dried (MgSO4) and concentrated in vacuo. The residue was purified by chromatography (Biotage, 40 g) eluting with CH2Cl2-MeOH (200:1) to give the title compound (128 mg). LCMS RT=3.99 min.

reactant | (5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-3-[2-(4-{2-[(3-iodobenzyl)oxy]ethoxy}phenyl)ethyl]-1,3-oxazolidin-2-one | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCC2=CC=C(C=C2)OCCOCC2=CC(=CC=C2)I)C | C30H32INO6
reactant | 3-(methoxycarbonyl)phenylboronic acid | 47 mg | COC(=O)C=1C=C(C=CC1)B(O)O | C8H9BO4
reactant | sodium carbonate | 2N, 7 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 10 mL | C(OC)COC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Methyl 3′-{[2-(4-{2-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6yl)-2-oxo-1,3-oxazolidin-3-yl]ethyl}phenoxy)ethoxy]methyl}-1,1′-biphenyl-3-carboxylate | 128 mg | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCC2=CC=C(OCCOCC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)OC)C=C2)C | C38H39NO8
